US04960758
III (a) Preparation of O-(2-benzoylphenyl) dimethylthiocarbamate
Following the procedure described in Preparation Ia and starting from 9.5 g (0.048 mol) of 2-hydroxyphenyl phenyl methanone and 10.3 g (0.083 mol) of dimethylthiocarbamoyl chloride, 11.2 g of the expected product are obtained (yield: 82%).

reactant | 2-hydroxyphenyl phenyl methanone | 0.048 mol, 9.5 g | OC1=C(C=CC=C1)C(=O)C1=CC=CC=C1 | C13H10O2
reactant | dimethylthiocarbamoyl chloride | 0.083 mol, 10.3 g | CN(C(=S)Cl)C | C3H6ClNS
product | O-(2-benzoylphenyl) dimethylthiocarbamate | 11.2 g, yield: 82% | CN(C(OC1=C(C=CC=C1)C(C1=CC=CC=C1)=O)=S)C | C16H15NO2S
